US07405210B2
Preparation 12: 1H-Pyrrolo[3,2-c]pyridine-2-carboxylic acid
Aqueous sodium hydroxide solution (2.4 mL, 2M, 4.8 mmol) was added to a solution of 1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (Preparation 11, 0.76 g, 4.0 mmol) in ethanol (40 mL) and the mixture heated under reflux for 2 h before being cooled and concentrated in vacuo. The residue was dissolved in a minimum amount of water, glacial acetic acid (1 mL) was added and the solution cooled in a refrigerator for 3 days. The resultant precipitate was collected by filtration washed with ether and dried in vacuo to give the title compound as a cream coloured solid. δH (D2O): 7.05 (1H, s), 7.63 (1H, d), 8.08 (1H, d), 8.94 (1H, s).

reactant | sodium hydroxide | 4.8 mmol, 2M, 2.4 mL | [OH-].[Na+]
reactant | 1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 4.0 mmol, 0.76 g | C(C)OC(=O)C1=CC=2C=NC=CC2N1 | C10H10N2O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 1H-Pyrrolo[3,2-c]pyridine-2-carboxylic acid | N1C(=CC=2C=NC=CC21)C(=O)O | C8H6N2O2
